US04145347
From 9.25 g. of ethyl α-methyl-2-oxo-1-pyrrolidineacetate and 10.5 g. of cis-3-(2,6-dimethyl-1-piperidinyl)propylamine, following the procedure of Example 21, there is obtained cis-(±)-N-[3-(2,6-dimethyl-1-piperidinyl)propyl]-α-methyl-2-oxo-1-pyrrolidineacetamide; b.p. 165°-170° C./0.1 mm.

reactant | ethyl α-methyl-2-oxo-1-pyrrolidineacetate | CC(C(=O)OCC)N1C(CCC1)=O | C9H15NO3
reactant | cis-3-(2,6-dimethyl-1-piperidinyl)propylamine | C[C@@H]1N([C@@H](CCC1)C)CCCN | C10H22N2
product | cis-(±)-N-[3-(2,6-dimethyl-1-piperidinyl)propyl]-α-methyl-2-oxo-1-pyrrolidineacetamide | C[C@@H]1N([C@@H](CCC1)C)CCCNC(C(N1C(CCC1)=O)C)=O | C17H31N3O2
